US04954518
3 g of 4-(2,4-difluorophenoxy)-3-methylsulfonylaminophenol was dissolved in 15 ml of N,N-dimethylformamide. 420 mg of sodium hydride (purity: 60%) was added. The mixture was stirred for 20 minutes at 20-25° C. Then, 0.88 g of methyl propiolate was added dropwise in about 5 minutes so that the reaction temperature was maintained below 40° C. The mixture was stirred for 30 minutes at 30°-40° C. After the completion of the reaction, 50 ml of water and 50 ml of ethyl acetate were added thereto. The resulting mixture was adjusted to pH 4 with 4N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue was purified by a column chromatography (eluant: a 20:1 mixture of toluene and ethyl acetate) to obtain 1.2 g (yield: 31.6%) of methyl trans-3-[4-(2,4-difluorophenoxy)-3-methylsulfonylaminophenoxy]acrylate.

reactant | 4-(2,4-difluorophenoxy)-3-methylsulfonylaminophenol | 3 g | FC1=C(OC2=C(C=C(C=C2)O)NS(=O)(=O)C)C=CC(=C1)F | C13H11F2NO4S
reactant | sodium hydride | 420 mg | [H-].[Na+]
reactant | methyl propiolate | 0.88 g | C(C#C)(=O)OC | C4H4O2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | methyl trans-3-[4-(2,4-difluorophenoxy)-3-methylsulfonylaminophenoxy]acrylate | 1.2 g, yield: 31.6% | FC1=C(OC2=C(C=C(O/C=C/C(=O)OC)C=C2)NS(=O)(=O)C)C=CC(=C1)F | C17H15F2NO6S
